US09226500B2
Step 2: (2R)-(4-((E)-4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzamido)propanoic acid:
TFA (1 mL) was added to a stirred solution of tert-butyl 2-(2-bromo-4-((E)-4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)propanoate (1.0 g, 1.63 mmol) in CH2Cl2 (20 mL) at 0° C. and the reaction mixture was stirred at ambient temperature for 18 h. The volatiles were evaporated under vacuum and the residue was triturated with pentane to afford the title compound as brown solid (0.65 g, 67%): 1HNMR (400 MHz, DMSO-d6) δ 12.60 (bs, 1H), 8.82 (d, J=8.0 Hz, 1H), 7.99 (s, 1H), 7.92-7.89 (m, 3H), 7.51 (d, J=8.0 Hz, 1H), 7.08 (dd, J=15.6, 8.8 Hz, 1H), 6.88 (d, J=15.6 Hz, 1H), 4.88-4.83 (m, 1H), 4.41-4.34 (m, 1H), 1.34 (d, J=7.2 Hz, 3H); ESIMS: m/z 545.7 ([M−H]+); IR (KBr) 3410, 3281, 2928, 1728, 1172, 744 cm−1.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-(2-bromo-4-((E)-4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)propanoate | 1.63 mmol, 1.0 g | BrC1=C(C(=O)NC(C(=O)OC(C)(C)C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H22BrCl3F3NO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2R)-(4-((E)-4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzamido)propanoic acid | 0.65 g, 67% | FC(C(/C=C/C1=CC(=C(C(=O)N[C@@H](C(=O)O)C)C=C1)C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C21H14Cl3F6NO3
